US08124762B2
Preparation of [4-(4′-diphenylaminobiphenyl-4-yl)pyrimidine-2-yl]naphthalene-2-yl amine (compound 1-f)
4-(4′-Diphenylaminobiphenyl-4-yl)pyrimidine-2-amine (100 mg, 0.24 mmol), 2-bromonaphthalene (54.6 mg, 0.264 mmol), dichlorobis(triphenylphosphine)palladium(II) (17 mg, 0.024 mmol), Xantphos (14 mg, 0.024 mmol) and sodium t-butoxide (35 mg, 0.36 mmol) were added in toluene (3 mL), and refluxed under nitrogen atmosphere for 14 hours. This solution was cooled, and the precipitated solid was washed with cold toluene and water to obtain the title compound (99 mg).

reactant | 4-(4′-Diphenylaminobiphenyl-4-yl)pyrimidine-2-amine | 0.24 mmol, 100 mg | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC(=NC=C1)N)C1=CC=CC=C1 | C28H22N4
reactant | 2-bromonaphthalene | 0.264 mmol, 54.6 mg | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | Xantphos | 0.024 mmol, 14 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium t-butoxide | 0.36 mmol, 35 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.024 mmol, 17 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(4′-diphenylaminobiphenyl-4-yl)pyrimidine-2-yl]naphthalene-2-yl amine | 99 mg, Yield 76% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C38H28N4
